US04990629
0.572 g of cuprous oxide and 20 ml of hydrogen fluoride were placed in a Daiflon reaction vessel connected to a carbon monoxide buret, and reacted with carbon monoxide at 5° C. under 1 atm to form a copper carbonyl catalyst solution. 9.1 ml (100 mmol) of 1,3-butanediol and 3.0 g (100 mmol) of paraformaldehyde were slowly added to the catalyst solution at 5° C. and the mixture was stirred to conduct the reaction with carbon monoxide under 1 atm. 85 molar %, based on 1,3-butanediol, of carbon monoxide was reacted. The product was separated from the catalyst layer to obtain 9.1 g (yield: 70%) of 5-methyl-1,4-dioxepan-2-one.

reactant | Daiflon | C(=C(F)Cl)(F)F | C2ClF3
reactant | carbon monoxide | [C]=O | CO
reactant | 1,3-butanediol | 100 mmol, 9.1 ml | C(CC(C)O)O | C4H10O2
reactant | paraformaldehyde | 100 mmol, 3.0 g | C=O | CH2O
catalyst | copper carbonyl | [CH-]=O.[Cu+]
solvent | hydrogen fluoride | 20 ml | F | FH
product | 5-methyl-1,4-dioxepan-2-one | 9.1 g, yield: 70% | CC1OCC(OCC1)=O | C6H10O3
